US08431607B2
(R)-5-[3-(2-hydroxyethoxy)phenyl]-1-[5-(4-chlorophenoxy)pyrazin-2-yl]pyrrolidin-2-one
A mixture of (R)-1-[5-(4-chlorophenoxy)pyrazin-2-yl]-5-(3-hydroxyphenyl)pyrrolidin-2-one (276 mg, 0.72 mmol), acetone (9 mL), K2CO3 (996 mg, 7.2 mmol) and 2-iodoethanol (1.86 g, 10.8 mmol) is stirred at 70° C. for 65 h. Then, acetone is removed by evaporation and the residue is dissolved in ethyl acetate (120 mL), washed with brine (20 mL) and dried over Na2SO4. After concentration, the residue is purified on silica gel (0-50% ethyl acetate in hexane) to give the title compound (215 mg, 70%) as a colorless oil. 1H NMR (CDCl3, 400 MHz) δ 9.12 (s, 1H), 7.99 (s, 1H), 7.37-7.32 (m, 2H), 7.22 (t, J=7.6 Hz, 1H), 7.08-7.03 (m, 2H), 6.84-6.74 (m, 3H), 5.68 (dd, J=8.0, 3.2 Hz, 1H), 4.09-3.99 (m, 2H), 3.98-3.92 (m, 2H), 2.89-2.75 (m, 1H), 2.72-2.58 (m, 2H), 2.09-1.98 (m, 1H). HPLC-MS calculated for C22H20ClN3O4 (M+H+) 426.12, found 426.10.

reactant | (R)-1-[5-(4-chlorophenoxy)pyrazin-2-yl]-5-(3-hydroxyphenyl)pyrrolidin-2-one | 0.72 mmol, 276 mg | ClC1=CC=C(OC=2N=CC(=NC2)N2C(CC[C@@H]2C2=CC(=CC=C2)O)=O)C=C1 | C20H16ClN3O3
reactant | K2CO3 | 7.2 mmol, 996 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-iodoethanol | 10.8 mmol, 1.86 g | ICCO | C2H5IO
solvent | acetone | 9 mL | CC(=O)C | C3H6O
product | (R)-5-[3-(2-hydroxyethoxy)phenyl]-1-[5-(4-chlorophenoxy)pyrazin-2-yl]pyrrolidin-2-one | 215 mg, 70% | OCCOC=1C=C(C=CC1)[C@H]1CCC(N1C1=NC=C(N=C1)OC1=CC=C(C=C1)Cl)=O | C22H20ClN3O4
